US05073566
2-[({1-[1-(Tetrazol-5-yl)heptyl]-1H-imidazol-4-yl}amino)carbonyl]benzoic acid hemihydrate
To 700 mg of α-hexyl-4-[(2-carboxybenzoyl)-amino]-1H-imidazole-1-acetonitrile were added 2.0 g of tributyl tin azide. The mixture was heated at 85° C. for 2 days, cooled, and added to 50 ml of methanol previously saturated with hydrogen chloride gas. After stirring for 20 minutes, the solvent was removed in vacuo. The residue was triturated with diethyl ether. The remaining solid was diluted with 100 ml of absolute ethanol and 100 ml of 4N sodium hydroxide. After stirring for two hours, the solution was concentrated in vacuo. The residue was taken up in water and the pH adjusted to 3.7. The aqueous solution was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated in vacuo. The resulting solid was slurried with diethyl ether and filtered to provide 150 mg of the desired titled product, m.p. 120°-121° C.

reactant | α-hexyl-4-[(2-carboxybenzoyl)-amino]-1H-imidazole-1-acetonitrile | 700 mg | C(CCCCC)C(C#N)N1C=NC(=C1)NC(C1=C(C=CC=C1)C(=O)O)=O | C19H22N4O3
reactant | tributyl tin azide | 2.0 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 2-[({1-[1-(Tetrazol-5-yl)heptyl]-1H-imidazol-4-yl}amino)carbonyl]benzoic acid hemihydrate | 150 mg | O.N1N=NN=C1C(CCCCCC)N1C=NC(=C1)NC(=O)C1=C(C(=O)O)C=CC=C1.N1N=NN=C1C(CCCCCC)N1C=NC(=C1)NC(=O)C1=C(C(=O)O)C=CC=C1 | InChI=1S/2C19H23N7O3.H2O/c2*1-2-3-4-5-10-15(17-22-24-25-23-17)26-11-16(20-12-26)21-18(27)13-8-6-7-9-14(13)19(28)29;/h2*6-9,11-12,15H,2-5,10H2,1H3,(H,21,27)(H,28,29)(H,22,23,24,25);1H2
